US04508730
5-(2-chlorophenyl)-3-[[3-(ethoxycarbonyl)propyl]amino]-1,7-dihydro-1,6,7-trimethyl-pyrrolo[3,4-e][1,4]diazepin-2(3H)-one
A mixture of 5-(2-chlorophenyl)-1,7-dihydro-3-hydroxy-1,6,7-trimethyl-pyrrolo[3,4-e][1,4]diazepin-2(3H)-one (6.3 g, 0.0198 mole) and thionyl chloride (18 mole) is allowed to stand at room temperature for one night. The 3-chloro derivative which forms is precipitated by the addition of ethyl ether, recovered by filtration and washed on filter with ethyl ether. The obtained intermediate is dissolved in chloroform (100 ml) and triethylamine (8 g) and γ-aminobutyric acid ethyl ester hydrochloride (6.4 g, 0.0382 mole) are gradually added to the obtained solution. The reaction mixture is allowed to stand, at room temperature for one day, then chloroform is evaporated, the residue is taken up with water acidified with HCl and the undissolved oil is extracted with chloroform. The chloroform solution is neutralized by washing with aqueous NaHCO3, dried over Na2SO4, filtered and concentrated to dryness yielding 6 g of an oily residue.

reactant | 5-(2-chlorophenyl)-1,7-dihydro-3-hydroxy-1,6,7-trimethyl-pyrrolo[3,4-e][1,4]diazepin-2(3H)-one | 0.0198 mole, 6.3 g | ClC1=C(C=CC=C1)C=1C=2C(N(C(C(N1)O)=O)C)=CN(C2C)C | C16H16ClN3O2
reactant | thionyl chloride | 18 mole | S(=O)(Cl)Cl | Cl2OS
reactant | γ-aminobutyric acid ethyl ester hydrochloride | 0.0382 mole, 6.4 g | Cl.C(C)OC(CCCN)=O
solvent | triethylamine | 8 g | C(C)N(CC)CC | C6H15N
product | 5-(2-chlorophenyl)-3-[[3-(ethoxycarbonyl)propyl]amino]-1,7-dihydro-1,6,7-trimethyl-pyrrolo[3,4-e][1,4]diazepin-2(3H)-one | 6 g | ClC1=C(C=CC=C1)C=1C=2C(N(C(C(N1)NCCCC(=O)OCC)=O)C)=CN(C2C)C | C22H27ClN4O3
